US05037990
4-[2-(4-Chlorobenzenesulphonamido)-ethyl]-phenoxyacetic acid (1H-tetrazol-5-yl)-amide
To a suspension of 7.30 g. (20 mMol) 4-[2-(4-chlorobenzenesulphonamido)-ethyl]-phenoxyacetic acid (preparation see European Patent Specification No. 0,239,907) and 2.20 ml. 4-methylmorpholine in 60 ml. dry methylene chloride is added dropwise at -10° C. 2.76 g. (20 mMol) isobutyl chloroformate, dissolved in 40 ml. dry methylene chloride, within the course of 15 minutes. After a further 15 minutes, a solution of 3.06 g. (20 mMol) 5-amino-1,2,3,4-tetrazole and 20 ml. dimethylformamide are added dropwise thereto within the course of 15 minutes. After stirring for 1 hour at -10° C., the reaction mixture is allowed to come to ambient temperature overnight, the solvent is distilled off, the oily residue is taken up in ethyl acetate and shaken out with 2N aqueous sodium hydroxide solution. The aqueous alkaline phases are acidified with 2N sulphuric acid and the resultant precipitate is filtered off with suction and thoroughly washed with water. After crystallisation from ethanol, there are obtained 4.20 g. (48% of theory) of colourless crystals; m.p. 227.5°-229.5° C.

reactant | 4-[2-(4-chlorobenzenesulphonamido)-ethyl]-phenoxyacetic acid | 20 mMol | ClC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(OCC(=O)O)C=C1 | C16H16ClNO5S
reactant | 4-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 20 mMol | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 5-amino-1,2,3,4-tetrazole | 20 mMol | NC1=NN=NN1 | CH3N5
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-[2-(4-Chlorobenzenesulphonamido)-ethyl]-phenoxyacetic acid (1H-tetrazol-5-yl)-amide | N1N=NN=C1NC(COC1=CC=C(C=C1)CCNS(=O)(=O)C1=CC=C(C=C1)Cl)=O | C17H17ClN6O4S
